US08110681B2
A mixture of 2-(4-nitrophenyl)propanoic acid (15.0 g, 76.9 mmol), dimethylaminopyridine (4.70 g, 38.4 mmol) and tert-butanol (8.10 mL, 84.6 mmol) in methylene chloride (300 mL) was stirred at 0° C. for 2 h. After this time, 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride (17.0 g, 84.6 mmol) was added and the reaction stirred for a further 2 h. The ice bath was then removed and the reaction left to stir at room temperature overnight. After this time, the solvents were concentrated under reduced pressure and the solids redissolved in ethyl acetate (200 mL). The organic layer was then washed with saturated sodium bicarbonate (200 mL), 1 M citric acid (200 mL) and brine (200 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure. Purification by flash chromatography (silica, 1:20 ethyl acetate/hexanes) afforded tert-butyl 2-(4-nitrophenyl)propanoate (14.4 g, 75%) as a yellow oil: 1H NMR (500 MHz, CDCl3) δ 8.19 (d, J=9.2 Hz, 2H), 7.46 (d, J=9.2 Hz, 2H), 3.73 (q, J=7.1 Hz, 1i), 1.49 (d, J=7.1 Hz, 3H), 1.40 (s, 9H).

reactant | 2-(4-nitrophenyl)propanoic acid | 76.9 mmol, 15.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)O)C | C9H9NO4
reactant | dimethylaminopyridine | 38.4 mmol, 4.70 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | tert-butanol | 84.6 mmol, 8.10 mL | C(C)(C)(C)O | C4H10O
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 84.6 mmol, 17.0 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-(4-nitrophenyl)propanoate | 14.4 g, 75% | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)OC(C)(C)C)C | C13H17NO4
